US06468998B1
3-Methylaminopyrrolidine and 2-bromoethylbenzene are reacted under the same conditions as in Starting Material Synthetic Example 4 to give 3 -methylamino-1-(2-phenylethyl)pyrrolidine.

reactant | 3-Methylaminopyrrolidine | CNC1CNCC1 | C5H12N2
reactant | 2-bromoethylbenzene | BrCCC1=CC=CC=C1 | C8H9Br
product | 3 -methylamino-1-(2-phenylethyl)pyrrolidine | CNC1CN(CC1)CCC1=CC=CC=C1 | C13H20N2
